US06420413B2
1,1-Diethoxy-1,2-dihydrocyclobuta[a]naphthalene
9.4 g of sodium amide are introduced into 350 ml of tetrahydrofuran. 25.9 g of 1-bromonaphthalene and 28 g of freshly prepared 1,1-diethoxyethylene are poured in succession into that mixture. The reaction mixture is refluxed for 16 hours and than taken up in water and ether. After washing the organic phase to neutral pH and drying thereof, the expected product is isolated and chromatographed over silica gel (dichloromethane/cyclohexane: 1/1).

reactant | sodium amide | 9.4 g | [NH2-].[Na+]
reactant | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
reactant | 1-bromonaphthalene | 25.9 g | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | 1,1-diethoxyethylene | C(C)OC(=C)OCC | C6H12O2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1,1-Diethoxy-1,2-dihydrocyclobuta[a]naphthalene | C(C)OC1(CC=2C1=C1C=CC=CC1=CC2)OCC | C16H18O2
